************************************************************************
* auCdl Netlist:
* 
* Library Name:  MyLibPDK45
* Top Cell Name: myXOR
* View Name:     schematic
* Netlisted on:  Dec  2 21:48:15 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myInverter45
* View Name:    schematic
************************************************************************

.SUBCKT myInverter45 in out
*.PININFO in:I out:O
MM0 out in gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM1 out in vdd! vdd! PMOS_VTL W=180n L=50n m=1
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myXOR
* View Name:    schematic
************************************************************************

.SUBCKT myXOR A B Z
*.PININFO A:I B:I Z:O
MM1 A Bbar Z gnd! NMOS_VTL W=90n L=50n m=1
MM0 Z A Bbar gnd! NMOS_VTL W=90n L=50n m=1
MM3 A B Z vdd! PMOS_VTL W=180n L=50n m=1
MM2 Z A B vdd! PMOS_VTL W=180n L=50n m=1
XI0 B Bbar / myInverter45
.ENDS

